US07906645B2
(2R)-1-(tert-Butoxycarbonyl)-4-ethylpiperazine-2-carboxylic acid
To (2R)-1-(tert-butoxycarbonyl)piperazine-2-carboxylic acid (1.406 g) and Na2CO3 (2.59 g) was added dry EtOH (28 ml) then ethyl iodide (0.54 ml) and the mixture heated at reflux for 18 h under argon. The solvent was then removed under reduced pressure and 5% MeOH/DCM (40 ml) was added and stirred for 1 hour in a sealed flask. The solution was filtered and washed with dichloromethane (2×10 mL). The filtrate was then placed directly onto a 120 g-silica cartridge and was purified using eluent 10-70% MeOH/DCM. After evaporation, the product was isolated as a white foam (1.00 g), which was used without further purification.

reactant | (2R)-1-(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 1.406 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)C(=O)O | C10H18N2O4
reactant | Na2CO3 | 2.59 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl iodide | 0.54 ml | C(C)I | C2H5I
solvent | EtOH | 28 ml | CCO | C2H6O
product | (2R)-1-(tert-Butoxycarbonyl)-4-ethylpiperazine-2-carboxylic acid | 1.00 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC)C(=O)O | C12H22N2O4
